US07015218B1
1-(4-Chlorophenyl)-N-[3-cyano-4-(4-piperidinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 150 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (0.86 g) and 5-amino-2-(4-piperidinopiperidin-1-yl)benzonitrile (0.8 g), the title compound (0.78 g) was obtained, melting point: 252° C./decomposition. b3

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 0.86 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 5-amino-2-(4-piperidinopiperidin-1-yl)benzonitrile | 0.8 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCCCC1 | C17H24N4
product | 1-(4-Chlorophenyl)-N-[3-cyano-4-(4-piperidinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide | 0.78 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCCCC1)C#N | C28H31ClN6O
